US05438052
4-(3,4-Dihydro-4-oxo-5-pyrimidinyl)-o-phenylene diacetate (194 mg) (0.67 mmol) are added to 5 ml of phosphorus oxychloride. After stirring at 100° C. for 6 hours the mixture is concentrated in a vacuum at 40° C. The residue is dissolved in dichloromethane/methanol (99:1 v/v) and the solution is washed with water. The solution is dried over sodium sulphate and concentrated. The residue is crystallized using ethanol. The beige crystals are filtered off under suction, washed with petroleum ether and dried in a high vacuum at room temperature. There are obtained 90 mg of 4-(4-chloro-5-pyrimidinyl)-o-phenylene diacetate of m.p. 108° C.

reactant | 4-(3,4-Dihydro-4-oxo-5-pyrimidinyl)-o-phenylene diacetate | 0.67 mmol, 194 mg | C(C)(=O)OC1=C(C=C(C=C1)C=1C(NC=NC1)=O)OC(C)=O | C14H12N2O5
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(4-chloro-5-pyrimidinyl)-o-phenylene diacetate | 90 mg | C(C)(=O)OC1=C(C=C(C=C1)C=1C(=NC=NC1)Cl)OC(C)=O | C14H11ClN2O4
